US05126457
To a solution of 15.1 g (0.1 mole) of 2-nitro-benzaldehyde and 40 ml of methanol a methanolic solution of 1.7 g (0.1 mole) of ammonia is added dropwise under stirring. The reaction mixture is stirred at room temperature for 20 hours, then cooled, the precipitated product is filtered, washed with methanol and dried. Thus 11.3 g of trimeric 2-nitro-benzaldehyde-imine are obtained, yield 75.3%, m.p.: 117°-119° C.

reactant | 2-nitro-benzaldehyde | 0.1 mole, 15.1 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | ammonia | 0.1 mole, 1.7 g | N | H3N
solvent | methanol | 40 ml | CO | CH4O
product | 2-nitro-benzaldehyde-imine | 11.3 g, yield 75.3% | [N+](=O)([O-])C1=C(C=N)C=CC=C1 | C7H6N2O2
